US04840965
A mixture of 2,3-ethylenedioxy-1,4-benzoquinone (17 g) and freshly distilled chloroprene (13 g) in glacial acetic acid (100 mL) was stirred at ambient temperature for 90 hours. The mixture was then diluted with additional acetic acid (500 mL) followed by the addition of a solution of sodium dichromate (40 g) and sulfuric acid (2 mL) in water (25 mL). The mixture was heated at 60° -70°C. for 2 hours, then cooled and diluted with water (500 mL). The resulting bright orange precipitate was collected and dried to yield 18.25 g of 6-chloro-2,3-ethylenedioxy-1,4-naphthoquinone, mp 279°-80° C.

reactant | 2,3-ethylenedioxy-1,4-benzoquinone | 17 g | C1OC=2C(C=CC(C2OC1)=O)=O | C8H6O4
reactant | chloroprene | 13 g | C=CC(=C)Cl | C4H5Cl
reactant | sodium dichromate | 40 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 6-chloro-2,3-ethylenedioxy-1,4-naphthoquinone | 18.25 g | ClC=1C=C2C(C3=C(C(C2=CC1)=O)OCCO3)=O | C12H7ClO4
